* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJU7098A
*CMOS OPAMP
*Version:1
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.Subckt NJU7098A +IN -IN V+ V- SHDWN OUT
X_U1 +IN -IN V+ V- SHDWN OUT NJU7098A_s
.ends NJU7098A
*$
* connections:         non-inverting input
*                      | inverting input
*                      | | positive power supply
*                      | | | negative power supply
*                      | | | | shdwn
*                      | | | | | output
*                      | | | | | |
.subckt NJU7098A_s      1 2 3 4 5 6
C1 11 12 {C1}
C2 15 16 {C2}
CS 10 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 6 18 DMOD2
D4 19 6 DMOD2
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 6 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
M1 11 2 13 13 PMOS1 
M2 12 NET1 14 14 PMOS2 
RO1 16 6 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 11 4 {RD1}
RD2 12 4 {RD2}
RS2 10 14 {RS2}
RS1 10 13 {RS1}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 {VS}
VD 3 18 {VD}

.MODEL DMOD1 D(T_MEASURED= 25 IS= 9.37E-30)
.MODEL DMOD2 D(T_MEASURED= 25 IS= 8.00E-16)
.MODEL PMOS1 PMOS(LEVEL=1 VTO= -4.89E-01
+ KP= 4.01E-05 L={L_VAL} W={W_VAL} TOX=	1.30E-08 U0= 1.51E+02)
.MODEL PMOS2 PMOS(LEVEL=1 VTO= -4.89E-01
+ KP= 4.01E-05 L={L_VAL} W={W_VAL} TOX=	1.30E-08 U0= 1.51E+02)
*
.PARAM
+ C1= 4.5E-12
+ C2= 2.43E-12
+ CS= 2.23E-12
+ GCM= 2.99E-11
+ GA= 9.46E-05
+ GB= 42301.52
+ GC= 3003405.797
+ ITL= 1.42E-05
+ RS= 1.41E+07
+ RD1= 10575.38
+ RD2= 10575.38
+ RC= 3.33E-07
+ RS1= 96.36
+ RS2= 96.36
+ RO1= 50
+ RO2= 25
+ RP= 8.54E+03
+ VD= 0.8672
+ VS= 0.80782409
+ VOS= 1.7584E-06
+ L_VAL= 1.00E-06
+ W_VAL= 1.60E-05

.ends NJU7098A_s
*$
